** sch_path: /foss/designs/SSCS-Chipathon-2026_ABC123-team/ABC123_SDC/design_data/klayout/OSC/OSC_INV/OSC_INV.sch
.subckt OSC_INV VDD VIN VOUT VSS Vcont
*.PININFO VIN:I VOUT:O VDD:B VSS:B Vcont:I
M4 net2 net3 VSS VSS nfet_03v3 L=2.5u W=0.42u nf=1 m=8
M5 net1 net4 VDD VDD pfet_03v3 L=2.5u W=0.42u nf=1 m=8
M6 net4 net3 VSS VSS nfet_03v3 L=2.5u W=0.42u nf=1 m=4
M7 net4 net4 VDD VDD pfet_03v3 L=2.5u W=0.42u nf=1 m=4
M8 net3 net3 VSS VSS nfet_03v3 L=2.5u W=0.42u nf=1 m=4
M9 net3 Vcont VDD VDD pfet_03v3 L=2.5u W=0.42u nf=1 m=4
M1 VOUT VIN net1 VDD pfet_03v3 L=2.5u W=15.825u nf=1 m=10
M2 VOUT VIN net2 VSS nfet_03v3 L=2.5u W=6.33u nf=1 m=10
.ends
